US07799805B2
[2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester
TBAF (1M in THF, 1.39 mL, 1.39 mmol) was added to a sol. of {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-ethyl-carbamic acid tert-butyl ester (298 mg, 0.696 mmol) in THF (6.82 mL) at 0° C. The mixture was stirred for 1 h while warming up to rt. EtOAc was added, and the mixture was washed with aq. sat. NH4Cl and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (CH2Cl2/MeOH 19:1) yielded the title compound (110 mg, 50%). LC-MS: tR=0.97 min; ES+: 314.11.

reactant | TBAF | 1.39 mmol, 1M, 1.39 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-ethyl-carbamic acid tert-butyl ester | 0.696 mmol, 298 mg | C(C)(C)(C)OC(N(CC)CCC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C22H38ClNO3Si
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 6.82 mL | C1CCOC1 | C4H8O
product | [2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-ethyl-carbamic acid tert-butyl ester | 110 mg, 50% | C(C)(C)(C)OC(N(CC)CCC1=CC(=C(C=C1)Cl)CO)=O | C16H24ClNO3
